US05753652
4.2 ml of triethylamine are added dropwise at 0° to a solution of 3.36 g (16 mmol) of (L)-valine-tert-butyl ester.HCl, 2 g (14.5 mmol) of 3-pyridylacetic acid and 2.17 ml (14.3 mmol) of cyanophosphonic acid diethyl ester in 20 ml of DMF. The reaction mixture is stirred for 48 h at RT, and then diluted with methylene chloride and washed with 10% citric acid as well as saturated sodium hydrogen carbonate solution. The organic phase is filtered through cotton wadding and, after removal of the solvent by evaporation, yields N-(3-pyridylacetyl)-(L)-valine-tert-butyl ester, which is directly further used in a).

reactant | (L)-valine-tert-butyl ester | 16 mmol, 3.36 g | C(C)(C)(C)OC([C@@H](N)C(C)C)=O | C9H19NO2
reactant | HCl | Cl | ClH
reactant | 3-pyridylacetic acid | 14.5 mmol, 2 g | N1=CC(=CC=C1)CC(=O)O | C7H7NO2
reactant | cyanophosphonic acid diethyl ester | 14.3 mmol, 2.17 ml | C(C)OP(OCC)(=O)C#N | C5H10NO3P
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 4.2 ml | C(C)N(CC)CC | C6H15N
product | N-(3-pyridylacetyl)-(L)-valine-tert-butyl ester | C(C)(C)(C)OC([C@@H](NC(CC=1C=NC=CC1)=O)C(C)C)=O | C16H24N2O3
